US04837217
Preparation of 2-t-butyl-4-chloro-5-[4-(1-methyl-2-isopropoxyethoxy)-benzyloxy]-3(2H)-pyridazinone (Compound No. 524)
In 15 ml of N,N-dimethylformamide were dissolved 1.0 g of 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone and 1.6 g of 4-(1-methyl-2-isopropoxyethoxy)-benzyl bromide, and thereto was added 1.0 g of anhydrous potassium carbonate. The mixture was heated under stirring on an oil bath at 100° to 120° C. for 2 hours. Then, procedures similar to those in Preparation Example 2 were conducted to give 1.2 g of the aimed compound, m.p. 60.0°~62.0° C.

reactant | 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone | 1.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)O | C8H11ClN2O2
reactant | 4-(1-methyl-2-isopropoxyethoxy)-benzyl bromide | 1.6 g | CC(COC(C)C)OC1=CC=C(CBr)C=C1 | C13H19BrO2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-4-chloro-5-[4-(1-methyl-2-isopropoxyethoxy)-benzyloxy]-3(2H)-pyridazinone | 1.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OCC1=CC=C(C=C1)OC(COC(C)C)C | C21H29ClN2O4
